US04607053
A. 4-(1-Cyclohexenyloxy)benzoic acid
To a stirred solution of p-hydroxybenzoic acid (1.38 gm, 10 mmol) in THF (30 ml) is added sodium hydride (0.48 g, 20 mmol), followed by cyclohexenyl bromide (1.63 gm 10 mM). The mixture is heated to reflux for 12 hours. After cooling the reaction mixture is poured into ethyl acetate and extracted with 1N NaOH (3×). The combined aqueous extracts are combined, acidified to pH 2 with concentrated HCl, and extracted 3× with ethyl acetate. The combined organic extracts are dried over Na2SO4 and evaporated under reduced pressure to afford the product.

reactant | p-hydroxybenzoic acid | 10 mmol, 1.38 gm | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | sodium hydride | 20 mmol, 0.48 g | [H-].[Na+]
reactant | cyclohexenyl bromide | 10 mM, 1.63 gm | C1(=CCCCC1)Br | C6H9Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 4-(1-Cyclohexenyloxy)benzoic acid | C1(=CCCCC1)OC1=CC=C(C(=O)O)C=C1 | C13H14O3
